US05550130
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.45 g; 11.1 mmol), K2CO3 (2.0 g), and 3-(2-methoxyphenoxy)propyl chloride (3.5 g, 17.4 mmol) in acetonitrile (40 ml) was heated at 90° C. for 4 hours. At the end of the reaction, the solvent was removed, and the solids were dissolved into dichloromethane (100 ml). The solution was washed with water and brine, then dried over MgSO4. The crude material from the solution was combined with 1.2 g of crude material prepared in the same fashion (using 0.5 g of starting material). The combined material was purified by flash chromatography on a silica gel column (49 g, eluted with 0.5% diethylamine:1% methanol:98.5% dichloromethane, 1 L). The fractions containing the pure product were pooled and concentrated down to a light oil (3.68 g). This oil was treated with fumaric acid (1.14 g, 9.8 retool) in ethanol (13 ml). The 6-fluoro-3-[1-[3-(2-methoxyphenoxy)-propyl]-4-piperidinyl]-1,2-benzisoxazole fumarate crystals obtained weighed 4.01 g (60%), m.p.=169°-170° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 11.1 mmol, 2.45 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(2-methoxyphenoxy)propyl chloride | 17.4 mmol, 3.5 g | COC1=C(OCCCCl)C=CC=C1 | C10H13ClO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 6-fluoro-3-[1-[3-(2-methoxyphenoxy)-propyl]-4-piperidinyl]-1,2-benzisoxazole fumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=CC=C2)OC)C=C1 | InChI=1S/C22H25FN2O3.C4H4O4/c1-26-19-5-2-3-6-20(19)27-14-4-11-25-12-9-16(10-13-25)22-18-8-7-17(23)15-21(18)28-24-22;5-3(6)1-2-4(7)8/h2-3,5-8,15-16H,4,9-14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
